Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor / lactose intolerance / lactose
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMHx of CHF, CKD, DM2, dementia, HTN, HL - presents w/ 
lethargy. At ___, been more lethargic for the past 3 days, 
unable to tolerate sitting up in wheelchair for more than a few 
hours. More frequent falls. No fever/chills, cough, diarrhea. 
BUN/Cr baseline at ___ was 40-50/2.4-3.0 but past few days have 
been ___, not responsive to 2L fluid.

___ is NP that follows him closely, pager 
___
spoke with ___ to confirm status

In the ED, initial vital signs were 98.0 60 160/70 18 98% RA. 
Labs were significant for Cr 2.7, K 5.3, HCT 35.1. UA was 
negative. CXR showed a linear opacity at the right lung base 
most suggestive of atelectasis; however, infection cannot be 
entirely excluded. Possible small right pleural effusion. CT 
Head showed no acute intracranial process, though limited by 
motion. At the time of transfer, VS: 98.0 55 137/58 14 97% RA.   

 
On the floor, the patient complains of back pain which is 
chronic, sleepiness, loss of apetite. He says he has been having 
diarrhea for the last two days, however he is an unreliable 
historian due to baseline dementia.

 
Past Medical History:
Diabetes melitus
CKD w/ h/o hyperkalemia
hyperlipidemia
O/A
hypertension
BPH
h/o DVT
h/o prostate CA previously with external beam radiation
erectile dysfunction
ex lap in ___ in ___, reportedly nothing found
decreased hearing, reportedly was told he needs a hearing aid
but did not get one
CVA - on asa 81mg daily
 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Admission Physical Exam:  
Vitals- 98.0 55 137/58 14 97% RA
General- Elderly ___ man appear comfortable in bed, 
drowsy, pleasant, ansering questions. Oriented x2.  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- intention tremor on exam. CNs2-12 intact, motor function 
grossly normal  
.
Discharge physical exam:
VS - Tm 98.7 HR 55-61 BP ___ RR 18 SaO2 93%RA
General- Elderly ___ man appear comfortable in bed, 
drowsy, pleasant, ansering questions. Oriented x2.  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- intention tremor on exam. CNs2-12 intact, motor function 
grossly normal  
 
Pertinent Results:
Admission labs:
___ 12:44PM   WBC-6.5 RBC-3.72* HGB-11.8* HCT-35.1* MCV-94 
MCH-31.8 MCHC-33.8 RDW-16.0*
___ 12:44PM   NEUTS-70.5* ___ MONOS-6.9 EOS-2.1 
BASOS-0.1
___ 12:44PM   GLUCOSE-245* UREA N-63* CREAT-2.7* SODIUM-136 
POTASSIUM-5.3* CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 12:54PM   LACTATE-1.5
___ 03:30PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 03:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:44PM   ALT(SGPT)-15 AST(SGOT)-28 ALK PHOS-47 TOT 
BILI-0.3
___ 12:44PM   LIPASE-40
___ 12:44PM   ALBUMIN-3.5 CALCIUM-8.8 PHOSPHATE-2.9# 
MAGNESIUM-2.1
___ 12:44PM   VALPROATE-17*

Relevant labs:
___ 06:20AM BLOOD TSH-2.0
___ 07:10AM BLOOD VitB12-PND

Discharge labs:
___ 07:10AM BLOOD WBC-6.3 RBC-4.00* Hgb-11.9* Hct-37.5* 
MCV-94 MCH-29.7 MCHC-31.7 RDW-16.0* Plt ___
___ 07:10AM BLOOD Glucose-73 UreaN-54* Creat-2.5* Na-138 
K-4.1 Cl-101 HCO3-28 AnGap-13
___ 07:10AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.8

Pertinent Imaging:
___ CXR: Linear opacity at the right lung base most 
suggestive of 
atelectasis; however, infection cannot be entirely excluded.  
Possible small right pleural effusion. 

___ Head CT:  Study limited by patient motion, however, no 
acute intracranial process detected. 

 
Brief Hospital Course:
Reason for hospitalization: ___ year old man with history of DM2, 
dementia, CKD, HTN, HL presents w/ lethargy x 3 days at ___.
.
Active Issues:
#AMS: ___ RN reports a gradual decline in mental and physical 
function over the last year. He is drowsy but arousable, and 
oriented x2 on exam. He answers questions, inappropriately at 
times. Differential included worsening of baseline dementia vs 
polypharmacy vs acute kidney injury vs infection vs stroke vs 
hypothyroidism vs B12 deficiency. His Cr was found to be 
baseline, no infectious source found, and head CT was negative. 
He had no fever or white count. TSH was within normal limits and 
B12 is pending at discharge. We discontinued his sedating 
medications and recommend that the patient continue to hold 
these meds at his ___. We felt that the patient was most likely 
at his baseline decline in mental status and felt it safe for 
him to leave the hospital. However, the underlying cause of his 
mental decline should be addressed as an outpatient (see 
transitional issues below).
.
#CKD: The pt had an elevated creatinine at ___ and was treated 
with 1L NS. His Cr upon arrival was at his baseline and stayed 
there throughout the course of his stay. He did not receive any 
additional fluids. We monitored his ins and outs and trended his 
creatinine. From speaking with ___ RN, it appears that dialysis 
had been discussed with pt and family, but no course has been 
decided over the last year. 
.
#Supratherapeutic INR: Found to be 4.6 at outside ___. Coumadin 
was held and restarted at 2.5mg once INR was rechecked at 2.1. 
On day 2 the INR was found to be 1.6, so coumadin was increased 
to 3.5mg with instructions to take 2.5mg qday alternating with 
3.5mg qod. The pt was on coumadin for history of DVT. It is 
unclear whether or not he should continue. However, with his 
history of frequent falls at ___, it would be wise to consider 
stopping if unnecessary.
.
#Hyperkalemia: Pt came in with K 5.3, which decreased down to 
4.1.
.
Chronic Issues:
.
#Diabetes Mellitus: Replaced pt's home regimen of levemir 10 
units qhs and novolog sliding scale to lantus 10 units qhs and 
humalog SS. Kept on diabetic diet. No issues. Discharged on home 
meds.
.
#CHF: No signs of fluid overload on exam. ECHO ___ shows mild 
LVH and preserved systolic function. Continued home isosorbide 
and hydralazine home regimen.
.
#HTN: Remained well controlled for majority of stay. Continued 
home amlodipine, isosorbide, hydralazine, and labetolol. Held 
propanolol and torsemide to prevent hypotension. Recommend 
continuing all home meds at discharge.
.
#BPH: Stable. Continued home doxazosin and tamsulosin.

#HLD: Not on statin at home.

#h/o CVA: Head CT negative. Kept pt on home ASA 81mg daily.

#Anemia: Hematocrit has remained baseline over the hospital 
stay. It has been decreasing over the last several years per 
OMR. Likely related to CKD. No further workup performed.

#Dementia/neuropsychiatric issues: Specific diagnoses are 
unclear. We continued his home valproate, gabapentin, and 
wellbutrin. We held gabapentin for sedation.

Transitional Issues:
# Discussion of goals of care: Pt's physical and mental status 
appears to be gradually declining over the last year. He 
requires skilled nursing for multiple comorbidities. It is 
unclear whether his neurological findings (history of abnormal 
head imaging, ?spiculated occipital mass, old CVA) warrant 
further management or workup. Goals of care should continue to 
be discussed at extended care facility.  Discussion with patient 
and health care proxy should be considered to clarify code 
status (DNR/DNI per documentation from ___, Full code per son, 
health care proxy).

# Coumadin management: Unclear whether or not the patient should 
continue to stay on coumadin. Per outpatient physician notes, it 
appears that it may not be necessary, as pt has exceeded the 6 
month period following DVT. However, he has history of multiple 
DVTs in the past. Given his report history of frequent falls 
recently, suggest continued discussion regarding plan for 
coumadin moving forward.
.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from  ___ transfer notes.
1. Warfarin 2.5 mg PO DAILY 
2. Acetaminophen 650 mg PO Q 8H 
3. OxycoDONE (Immediate Release)  2.5 mg PO QID 
hold for RR<12 or oversedation
 
4. Valproic Acid ___ mg PO QAM 
5. Valproic Acid ___ mg PO QHS 
6. Lidocaine 5% Patch 1 PTCH TD QHS 
apply to lower back at night and remove in AM 
7. Tamsulosin 0.4 mg PO HS 
8. Propranolol 10 mg PO BID 
hold for SBP <100 or HR <50 
9. Gabapentin 200 mg PO BID 
10. Labetalol 300 mg PO BID 
hold for SBP <100 or HR <50 
11. Sodium Chloride Nasal ___ SPRY NU BID 
12. HydrALAzine 75 mg PO TID 
hold for SBP <100 or HR <50 
13. traZODONE 25 mg PO HS 
14. Calcitriol 0.25 mcg PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Ferrex ___ Forte *NF* (iron polysacch complex-B12-FA) 
150-50-50 mg Oral daily 
17. Cyanocobalamin 100 mcg PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Doxazosin 2 mg PO HS 
20. Generlac *NF* (lactulose) ___ g/mL Oral q48H 
21. Torsemide 60 mg PO Q48H 
22. Omeprazole 20 mg PO DAILY 
23. Amlodipine 10 mg PO DAILY 
hold for SBP <100 or HR <50 
24. Aspirin 81 mg PO DAILY 
25. Levemir *NF* (insulin detemir) 10 units Subcutaneous QHS 
hold for FSBG<100 
26. ISS Unknown Dose
Insulin SC Sliding Scale using HUM Insulin
27. BuPROPion (Sustained Release) 100 mg PO QAM 
28. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
Hold for SBP<100 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
hold for SBP <100 or HR <50 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 100 mg PO QAM 
4. Calcitriol 0.25 mcg PO DAILY 
5. Cyanocobalamin 100 mcg PO DAILY 
6. Doxazosin 2 mg PO HS 
7. FoLIC Acid 1 mg PO DAILY 
8. HydrALAzine 75 mg PO TID 
hold for SBP <100 or HR <50 
9. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
Hold for SBP<100 
10. Labetalol 300 mg PO BID 
hold for SBP <100 or HR <50 
11. Lidocaine 5% Patch 1 PTCH TD QHS 
apply to lower back at night and remove in AM 
12. Sodium Chloride Nasal ___ SPRY NU BID 
13. Tamsulosin 0.4 mg PO HS 
14. Torsemide 60 mg PO Q48H 
15. traZODONE 25 mg PO HS 
16. Valproic Acid ___ mg PO QAM 
17. Valproic Acid ___ mg PO QHS 
18. Vitamin D 1000 UNIT PO DAILY 
19. Warfarin 2.5 mg PO DAILY 
20. Acetaminophen 650 mg PO Q 8H 
21. Ferrex ___ Forte *NF* (iron polysacch complex-B12-FA) 
150-50-50 mg Oral daily 
22. Generlac *NF* (lactulose) ___ g/mL Oral q48H 
23. Levemir *NF* (insulin detemir) 10 units Subcutaneous QHS 
hold for FSBG<100 
24. Omeprazole 20 mg PO DAILY 
25. Propranolol 10 mg PO BID 
hold for SBP <100 or HR <50 
26. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using outpatient novolog Insulin

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
1) Altered mental status
2) Chronic kidney disease
3) dementia

Secondary diagnoses:
1) Diabetes mellitus
2) hypertension
3) history of deep vein thrombosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for increased lethargy over the past 
3 days at your outside care facility. We ran tests to make sure 
it was not an infection and head CT to make sure there was not 
an acute problem with your brain. Your kidney function appeared 
well. We restarted your coumadin once your INR normalized. We 
stopped your oxycodone and gabapentin to see if these 
medications reduced your drowsiness as well. We feel that you 
are stabilized and now ready to return to your outside care 
facility.

We have made the following changes to your medications:
STOP oxycodone
STOP gabapentin
 
Followup Instructions:
___